US08389524B2
(g) N-(1-{[(2R)-4,9-Dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl}-4-methyl-4-piperidinyl)-2,2,2-trifluoroacetamide
A solution of (1R)-1-[(4-amino-4-methyl-1-piperidinyl)methyl]-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (687 mg, 1.765 mmol) in DCM (20 ml) and triethylamine (1.476 ml, 10.59 mmol) at 0° C. under argon was treated with trifluoroacetic anhydride (0.299 ml, 2.118 mmol) and stirred at rt for 1 h. The reaction was treated with saturated sodium bicarbonate (50 ml) and extracted with DCM (3×100 ml). The combined organic solvents were then dried (MgSO4), filtered, evaporated to give the crude product as an orange solid which was then chromatographed (0-10% methanol/DCM, Rf=0.4 in 10% methanol/DCM) to give product as an impure yellow solid (375 mg, 52%).

reactant | (1R)-1-[(4-amino-4-methyl-1-piperidinyl)methyl]-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 1.765 mmol, 687 mg | NC1(CCN(CC1)C[C@@H]1CN2C(CCC=3C=CC(N1C23)=O)=O)C | C17H24N4O2
reactant | triethylamine | 10.59 mmol, 1.476 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 2.118 mmol, 0.299 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(1-{[(2R)-4,9-Dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl}-4-methyl-4-piperidinyl)-2,2,2-trifluoroacetamide | 375 mg, 52% | O=C1N2C=3N(C(CCC3C=C1)=O)C[C@H]2CN2CCC(CC2)(C)NC(C(F)(F)F)=O | C19H23F3N4O3
